US08242145B2
Step 1: [3-(2-Formyl-4-methyl-phenoxy)-phenyl]-acetic acid ethyl ester
(3-Hydroxy phenyl)-acetic acid ethyl ester (1.0 g, 5.2 mmol), 2-fluoro-5-methylbenzaldehyde (0.72 g, 5.2 mmol), and potassium carbonate (1.44 g, 10.4 mmol) were combined in 1,4-dioxane (30 mL) and heated to 120° C. for 3 days. After work-up, the crude material was purified by silica gel chromatography (0-20% EtOAc in hexanes) to give the desired product (0.20 g).

reactant | (3-Hydroxy phenyl)-acetic acid ethyl ester | 5.2 mmol, 1.0 g | C(C)OC(CC1=CC(=CC=C1)O)=O | C10H12O3
reactant | 2-fluoro-5-methylbenzaldehyde | 5.2 mmol, 0.72 g | FC1=C(C=O)C=C(C=C1)C | C8H7FO
reactant | potassium carbonate | 10.4 mmol, 1.44 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | [3-(2-Formyl-4-methyl-phenoxy)-phenyl]-acetic acid ethyl ester | 0.20 g | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C)C=O)=O | C18H18O4
